US08895582B2
To a solution of (S)-benzyl 5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl(methyl)carbamate (5.01 g, 12.65 mmol) in MeOH (100 mL) was added Pd/C (1.0 g). The mixture was transferred to an autoclave reactor, charged with 50 psi of hydrogen, and stirred overnight. The mixture was filtered, and the filtrate was concentrated under reduced pressure to give (S)-2-(5-hydroxy-4-(methylamino)pentyl)isoindoline-1,3-dione (3.2 g, 97%). LRMS (M+H+) m/z 263.1

reactant | (S)-benzyl 5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl(methyl)carbamate | 12.65 mmol, 5.01 g | O=C1N(C(C2=CC=CC=C12)=O)CCC[C@@H](CO)N(C(OCC1=CC=CC=C1)=O)C | C22H24N2O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | (S)-2-(5-hydroxy-4-(methylamino)pentyl)isoindoline-1,3-dione | 3.2 g, 97% | OC[C@H](CCCN1C(C2=CC=CC=C2C1=O)=O)NC | C14H18N2O3
